US05723655
A reactor was charged with 10 g (0.02 mole) of 11,15-dihydroxy-13-sulfoethyl-9,13,17-triazapentacosane, 50 ml of toluene and 5.1 ml (0.05 mole) of ethyl glycolate, and the contents were heated to 100° C. and continuously stirred for 7.5 hours while purging ethanol formed with a nitrogen stream. After completion of a reaction, the solvent was distilled off under reduced pressure, and the residue was purified by column chromatography (on 200 g of silica gel, developing solvent: chloroform/methanol=100/1→20/1), thereby obtaining 10.6 g (isolation yield: 91%) of 3,11-dioctyl-2,12-dioxo-7-sulfoethyl-3,7,11-triaza-1, 5,9,13-tridecanetetraol.

reactant | 11,15-dihydroxy-13-sulfoethyl-9,13,17-triazapentacosane | 0.02 mole, 10 g | OC(CNCCCCCCCC)CN(CC(CNCCCCCCCC)O)CCS(=O)(=O)O | C24H53N3O5S
reactant | ethyl glycolate | 0.05 mole, 5.1 ml | C(CO)(=O)OCC | C4H8O3
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 3,11-dioctyl-2,12-dioxo-7-sulfoethyl-3,7,11-triaza-1, 5,9,13-tridecanetetraol | 10.6 g, yield: 91% | C(CCCCCCC)N(C(CO)=O)CC(CN(CC(CN(C(CO)=O)CCCCCCCC)O)CCS(=O)(=O)O)O | C28H57N3O9S
